US09388197B2
A.1.6.2. 2-Amino-5,6-dihydro-4H-cyclopenta[d]thiazole-6-carbonitrile
A mixture of 2-bromo-3-oxocyclopentanecarbonitrile (crude from A.1.7.1.; ca. 13 g) and thiourea (13.77 g, 181 mmol) in dioxane (600 mL) was stirred at 80° C. for 1 h. The mixture was allowed to cool to RT, quenched with aq. sat. NaHCO3 and extracted with EtOAc. The comb. org. layers were washed with brine, dried over MgSO4, and conc. in vacuo. Purification by means of CC (2-20% MeOH (0.5% Et3N)/DCM) provided a brown solid.

reactant | 2-bromo-3-oxocyclopentanecarbonitrile | ca. 13 g | BrC1C(CCC1=O)C#N | C6H6BrNO
reactant | thiourea | 181 mmol, 13.77 g | NC(=S)N | CH4N2S
solvent | dioxane | 600 mL | O1CCOCC1 | C4H8O2
product | 2-Amino-5,6-dihydro-4H-cyclopenta[d]thiazole-6-carbonitrile | NC=1SC2=C(N1)CCC2C#N | C7H7N3S
